US07569688B2
A catalytic amount of ammonium chloride was added into 100 ml acetic acid solution containing terephthaldicarboxaldehyde (1.34 g) and 3-methylrhodanine (1.53 g), followed by about 12 hours of heating at 110° C. After cooling upon standing, the formed yellow crystals were collected by filtration, washed with an appropriate amount of ethanol-water (10:1), and dried to obtain 4-(3-methyl-4-oxo-2-thioxothiazolidin-5-ylidenmethyl)benzaldehyde (1.91 g).

reactant | ammonium chloride | [Cl-].[NH4+]
reactant | terephthaldicarboxaldehyde | 1.34 g | C1=CC(=CC=C1C=O)C=O | C8H6O2
reactant | 3-methylrhodanine | 1.53 g | CN1C(SCC1=O)=S | C4H5NOS2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-(3-methyl-4-oxo-2-thioxothiazolidin-5-ylidenmethyl)benzaldehyde | 1.91 g | CN1C(SC(C1=O)=CC1=CC=C(C=O)C=C1)=S | C12H9NO2S2
